Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.449394723269999
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-0.33711082546
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-7.329426715479999
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-6.3780668702
[C:1](/[C:2]=[C:4](\[H:5])[O:6][H:7])([H:9])([H:10])[H:11].[C:3]#[C:8]>>[C:1]#[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.50981234521
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[O:9][C:8]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9]1,-2.69969844213
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-7.0372528262100005
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8].[O:9][H:10],5.04668115323
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-4.81899334405
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],2.16229543718
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9][H:10],5.20748460141
[H:1][O:2][C:3]([H:4])([H:5])[C:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[C:9][H:10],4.84860532474
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],5.91822216512
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:4],3.84967419961
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-7.065010677410001
[H:1][C:2](=[C:3]=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.64628809649
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.13056536016
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[C:8]([H:9])([H:10])[O:11][H:12],7.72333007737
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8].[H:9],4.30254810622
[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.13940088922
[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[H:1]>>[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-3.47815489363
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],2.62726577832
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[O:7][O:8][H:9],6.53465695383
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]1([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],0.09617322742
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11]>>[C:7](=[O:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],1.08281979355
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14],-1.86295304125
[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-8.63686278
[H:1][O:2][C:3][O:4][C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-2.4022154330900003
